US07687118B2
16.25 g (0.123 mol) of dimethyl malonate were dissolved in 500 ml tetrahydrofurane. A suspension of 10.74 g (0.246 mol) sodium hydride 55% dispersion in mineral oil and 20 ml tetrahydrofurane were added at 0° C. in 1 h. After 0.5 h, a mixture of 53.2 g (0.246 mol) 4-nitrobenzyl bromide and 200 ml tetrahydrofurane was added dropwise. After 18.5 h at room temperature, the reaction mixture was added to water. The product was collected by filtration and washed with a lot of water to yield 52.8 g of dimethyl bis(4-nitrobenzyl)malonate as yellowish powder. The product was used without further purification.

reactant | dimethyl malonate | 0.123 mol, 16.25 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium hydride | 0.246 mol, 10.74 g | [H-].[Na+]
reactant | 4-nitrobenzyl bromide | 0.246 mol, 53.2 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | water | O | H2O
solvent | tetrahydrofurane | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
product | dimethyl bis(4-nitrobenzyl)malonate | 52.8 g | [N+](=O)([O-])C1=CC=C(CC(C(=O)OC)(C(=O)OC)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C19H18N2O8
